US04642313
2.0 g of ethyl 3-benzoylamino-3-(3-furylcarbonyl)propionate, 15 ml of chloroform and 4.9 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 1.5 g of ethyl 2-[2-phenyl-5-(3-furyl)-4-oxazolyl]acetate are thereby obtained. Yield: 79.0%

reactant | ethyl 3-benzoylamino-3-(3-furylcarbonyl)propionate | 2.0 g | C(C1=CC=CC=C1)(=O)NC(CC(=O)OCC)C(=O)C1=COC=C1 | C17H17NO5
reactant | phosphorus oxychloride | 4.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[2-phenyl-5-(3-furyl)-4-oxazolyl]acetate | 1.5 g, Yield: 79.0% | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)OCC)C1=COC=C1 | C17H15NO4
